*
*|DSPF 1.5
*
*|DATE "Wed May  8 11:20:45 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "DFFSXL"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  DFFSXL SN CK D QN Q
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET SN 2.97529e-16
*|P (SN X 0 2.1000 0.8550)
*|I (Mmn50:g Mmn50 g X 0 1.7825 0.5375)
*|I (Mmn30:g Mmn30 g X 0 1.9775 0.5375)
*|I (Mmp50:g Mmp50 g X 0 1.9775 1.0525)
*|I (Mmp30:g Mmp30 g X 0 2.2425 1.0525)
*|S (SN:2 1.9400 0.8450)
C1 Mmp30:g VSS 4.45245e-17
C2 Mmp50:g VSS 2.10595e-17
C3 Mmn30:g VSS 1.92655e-17
C4 Mmn50:g VSS 5.12151e-17
C5 SN:2 VSS 1.12459e-16
C6 SN VSS 4.90056e-17
Rl1 SN:2 Mmn50:g 114.000961 $W=0.039
Rl2 SN:2 Mmn30:g 76.155907 $W=0.039
Rl3 SN:2 Mmp50:g 24.232828 $W=0.039
Rl4 Mmp30:g SN:2 139.938721 $W=0.039
Rk5 SN:2 SN 45.097176 $W=0.1
*
*|NET CK 2.31748e-16
*|P (CK X 0 4.7000 0.8550)
*|I (Mmn20:g Mmn20 g X 0 4.7375 0.5425)
*|I (Mmp20:g Mmp20 g X 0 4.6825 1.0725)
*|S (CK:2 4.7100 0.7250)
C7 Mmp20:g VSS 3.83905e-17
C8 Mmn20:g VSS 2.89402e-17
C9 CK:2 VSS 1.21314e-16
C10 CK VSS 4.31036e-17
Rl6 Mmn20:g CK:2 30.769232 $W=0.039
Rl7 CK:2 Mmp20:g 79.945053 $W=0.039
Rk8 CK CK:2 45.077911 $W=0.1
*
*|NET D 2.88495e-16
*|P (D X 0 4.5000 0.8550)
*|I (Mmn25:g Mmn25 g X 0 4.5375 0.5425)
*|I (Mmp25:g Mmp25 g X 0 4.4775 1.0725)
*|S (D:2 4.5050 0.8550)
C11 Mmp25:g VSS 4.56277e-17
C12 Mmn25:g VSS 6.70718e-17
C13 D:2 VSS 4.30284e-17
C14 D VSS 1.32767e-16
Rl9 Mmn25:g D:2 75.679703 $W=0.039
Rl10 D:2 Mmp25:g 29.010942 $W=0.039
Rk11 D D:2 45.000000 $W=0.08
*
*|NET QN 7.16825e-17
*|P (QN X 0 0.1000 0.6650)
*|I (Mmn57:d Mmn57 d X 0 0.3025 0.5875)
*|I (Mmp57:d Mmp57 d X 0 0.3025 1.0075)
*|S (QN:3 0.2750 0.6000)
C15 Mmp57:d VSS 1.55551e-17
C16 Mmn57:d VSS 3.40494e-17
C17 QN VSS 2.2078e-17
Rk12 QN:3 QN 0.083156 $W=0.13
Rk13 Mmn57:d QN:3 75.000000 $W=0.1
Rk14 Mmp57:d QN:3 62.224415 $W=0.1
*
*|NET Q 1.11408e-16
*|P (Q X 0 0.9000 0.6650)
*|I (Mmn55:d Mmn55 d X 0 0.9375 0.5375)
*|I (Mmp55:d Mmp55 d X 0 0.9375 1.0075)
C18 Mmp55:d VSS 4.35328e-17
C19 Mmn55:d VSS 3.11826e-17
C20 Q VSS 3.66923e-17
Rk15 Q Mmn55:d 75.068924 $W=0.1
Rk16 Q Mmp55:d 62.176804 $W=0.1
*
*|NET net331 2.11564e-16
*|I (Mmn57:g Mmn57 g X 0 0.4125 0.5875)
*|I (Mmn56:d Mmn56 d X 0 0.7000 0.5875)
*|I (Mmp57:g Mmp57 g X 0 0.4125 1.0075)
*|I (Mmp56:d Mmp56 d X 0 0.7000 1.0075)
*|S (net331:1 0.4650 0.7600)
*|S (net331:2 0.4125 0.7600)
*|S (net331:6 0.7000 0.7700)
C21 Mmp56:d VSS 2.45251e-17
C22 Mmp57:g VSS 3.75828e-17
C23 Mmn56:d VSS 2.7707e-17
C24 Mmn57:g VSS 3.05307e-17
C25 net331:6 VSS 2.94854e-17
C26 net331:2 VSS 1.25586e-17
C27 net331:1 VSS 4.9174e-17
Rl17 net331:1 net331:2 45.521347 $W=0.094
Rl18 net331:2 Mmn57:g 34.329510 $W=0.039
Rl19 net331:2 Mmp57:g 49.714123 $W=0.039
Rk20 net331:6 net331:1 0.119162 $W=0.1
Rk21 net331:6 Mmn56:d 75.105583 $W=0.1
Rk22 Mmp56:d net331:6 62.117573 $W=0.1
*
*|NET qbint 5.28636e-16
*|I (Mmn56:g Mmn56 g X 0 0.6075 0.5875)
*|I (Mmn55:g Mmn55 g X 0 1.0475 0.5375)
*|I (Mmn45:d Mmn45 d X 0 1.3350 0.5375)
*|I (Mmn51:g Mmn51 g X 0 1.6775 0.5375)
*|I (Mmp56:g Mmp56 g X 0 0.6075 1.0075)
*|I (Mmp55:g Mmp55 g X 0 1.0475 1.0075)
*|I (Mmp45:d Mmp45 d X 0 1.3850 0.9600)
*|I (Mmp51:g Mmp51 g X 0 1.6775 1.0525)
*|S (qbint:2 1.0475 0.7100)
*|S (qbint:3 0.6075 0.7375)
*|S (qbint:6 1.1000 0.7100)
*|S (qbint:9 1.6775 0.8450)
*|S (qbint:10 1.5700 0.8450)
*|S (qbint:13 1.3450 0.9600)
C28 Mmp51:g VSS 2.62243e-17
C29 Mmp45:d VSS 4.87e-17
C30 Mmp55:g VSS 3.4239e-17
C31 Mmp56:g VSS 3.70891e-17
C32 Mmn51:g VSS 5.5805e-17
C33 Mmn45:d VSS 3.8831e-17
C34 Mmn55:g VSS 2.62154e-17
C35 Mmn56:g VSS 2.69211e-17
C36 qbint:9 VSS 2.87924e-17
C37 qbint:3 VSS 3.76131e-17
C38 qbint:6 VSS 1.15002e-16
C39 qbint:10 VSS 5.32033e-17
Rl23 qbint:2 qbint:6 49.135075 $W=0.094
Rl24 qbint:2 qbint:3 162.491013 $W=0.039
Rl25 qbint:9 qbint:10 54.101665 $W=0.094
Rl26 qbint:3 Mmn56:g 28.079685 $W=0.039
Rl27 qbint:2 Mmn55:g 33.437263 $W=0.039
Rl28 qbint:9 Mmn51:g 86.252586 $W=0.039
Rl29 qbint:3 Mmp56:g 60.771992 $W=0.039
Rl30 Mmp55:g qbint:2 68.052650 $W=0.039
Rl31 Mmp51:g qbint:9 34.329510 $W=0.039
Rk32 qbint:10 qbint:13 0.191069 $W=0.0885
Rk33 qbint:13 qbint:6 0.277337 $W=0.08
Rk34 qbint:6 Mmn45:d 75.277634 $W=0.08
Rk35 Mmp45:d qbint:13 62.000000 $W=0.0885
*
*|NET n35 7.41313e-16
*|I (Mmn45:g Mmn45 g X 0 1.2425 0.5375)
*|I (Mmn52:d Mmn52 d X 0 3.1025 0.5325)
*|I (Mmp45:g Mmp45 g X 0 1.2425 1.0075)
*|I (Mmp52:d Mmp52 d X 0 3.0950 1.0425)
*|S (n35:2 1.2900 0.7150)
*|S (n35:5 3.0650 0.7550)
C40 Mmp52:d VSS 5.48827e-17
C41 Mmp45:g VSS 4.29402e-17
C42 Mmn52:d VSS 4.4035e-17
C43 Mmn45:g VSS 3.50163e-17
C44 n35:5 VSS 2.55175e-16
C45 n35:2 VSS 3.09263e-16
Rl36 n35:2 Mmn45:g 26.155905 $W=0.039
Rl37 Mmp45:g n35:2 56.925137 $W=0.039
Rk38 n35:5 n35:2 46.833405 $W=0.08
Rk39 Mmn52:d n35:5 75.161591 $W=0.08
Rk40 n35:5 Mmp52:d 62.200962 $W=0.09
*
*|NET n42 1.75543e-18
*|I (Mmn51:s Mmn51 s X 0 1.7300 0.5375)
*|I (Mmn50:d Mmn50 d X 0 1.7300 0.5375)
C46 Mmn51:s VSS 1.75543e-18
Rmw41 Mmn50:d Mmn51:s 0.001000 $W=1
*
*|NET n40 3.48321e-16
*|I (Mmn51:d Mmn51 d X 0 1.5850 0.5375)
*|I (Mmn52:s Mmn52 s X 0 2.8400 0.5325)
*|S (n40:1 2.7900 0.2900)
*|S (n40:2 2.1200 0.2900)
C47 Mmn52:s VSS 5.30721e-17
C48 Mmn51:d VSS 7.46988e-17
C49 n40:2 VSS 1.27561e-16
C50 n40:1 VSS 9.29895e-17
Rl42 n40:1 n40:2 322.152771 $W=0.039
Rk43 Mmn51:d n40:2 75.525612 $W=0.09
Rk44 Mmn52:s n40:1 75.136719 $W=0.1
*
*|NET n25 7.38748e-18
*|I (Mmn30:d Mmn30 d X 0 2.1725 0.5375)
*|I (Mmn31:s Mmn31 s X 0 2.1725 0.5375)
C51 Mmn30:d VSS 7.38748e-18
Rmw45 Mmn31:s Mmn30:d 0.001000 $W=1
*
*|NET mout 7.93909e-16
*|I (Mmn31:d Mmn31 d X 0 2.4600 0.5375)
*|I (Mmn40:s Mmn40 s X 0 3.3700 0.5325)
*|I (Mmn36:g Mmn36 g X 0 3.8825 0.5425)
*|I (Mmp30:d Mmp30 d X 0 2.3450 1.0525)
*|I (Mmp40:s Mmp40 s X 0 3.2900 1.0425)
*|I (Mmp35:g Mmp35 g X 0 3.8775 1.0725)
*|S (mout:2 3.8775 0.8650)
*|S (mout:3 3.8200 0.8650)
*|S (mout:7 3.3000 1.0550)
*|S (mout:8 3.3000 1.1850)
*|S (mout:9 2.4700 0.9300)
C52 Mmp35:g VSS 3.94261e-17
C53 Mmp40:s VSS 6.16556e-17
C54 Mmp30:d VSS 4.18604e-17
C55 Mmn36:g VSS 4.56532e-17
C56 Mmn40:s VSS 8.23242e-17
C57 Mmn31:d VSS 6.12136e-17
C58 mout:9 VSS 1.25927e-16
C59 mout:8 VSS 1.71957e-16
C60 mout:2 VSS 3.76139e-17
C61 mout:3 VSS 1.26278e-16
Rl46 mout:2 mout:3 46.266560 $W=0.094
Rl47 Mmn36:g mout:2 90.469284 $W=0.039
Rl48 mout:2 Mmp35:g 34.329510 $W=0.039
Rk49 mout:8 mout:3 0.586438 $W=0.08
Rk50 mout:7 mout:8 0.070961 $W=0.1
Rk51 mout:8 mout:9 0.826581 $W=0.08
Rk52 mout:9 Mmn31:d 75.261864 $W=0.085
Rk53 Mmn40:s mout:7 75.446663 $W=0.08
Rk54 mout:9 Mmp30:d 62.120266 $W=0.095
Rk55 Mmp40:s mout:7 62.000000 $W=0.08
*
*|NET n20 6.07856e-16
*|I (Mmn31:g Mmn31 g X 0 2.3675 0.5375)
*|I (Mmn35:d Mmn35 d X 0 4.3300 0.5425)
*|I (Mmp31:g Mmp31 g X 0 2.4475 1.0525)
*|I (Mmp36:d Mmp36 d X 0 4.2450 1.0725)
*|S (n20:1 2.4200 1.3450)
*|S (n20:6 4.2450 1.0750)
C62 Mmp36:d VSS 2.20759e-16
C63 Mmp31:g VSS 4.03683e-17
C64 Mmn35:d VSS 8.57036e-17
C65 Mmn31:g VSS 5.16192e-17
C66 n20:1 VSS 2.09405e-16
Rl56 n20:1 Mmp31:g 103.384079 $W=0.039
Rl57 Mmp31:g Mmn31:g 141.873337 $W=0.039
Rk58 n20:6 n20:1 1.477368 $W=0.0815
Rk59 Mmn35:d n20:6 75.447289 $W=0.08
Rk60 Mmp36:d n20:6 62.000000 $W=0.08
*
*|NET CKb 1.07414e-15
*|I (Mmn52:g Mmn52 g X 0 2.9325 0.5325)
*|I (Mmn21:g Mmn21 g X 0 3.6875 0.5425)
*|I (Mmn26:g Mmn26 g X 0 4.4325 0.5425)
*|I (Mmn20:d Mmn20 d X 0 4.8450 0.5425)
*|I (Mmp40:g Mmp40 g X 0 3.1975 1.0425)
*|I (Mmp21:g Mmp21 g X 0 3.6775 1.0725)
*|I (Mmp36:g Mmp36 g X 0 4.1425 1.0725)
*|I (Mmp20:d Mmp20 d X 0 4.7750 1.0725)
*|S (CKb:1 3.1400 0.3500)
*|S (CKb:4 3.2250 0.8350)
*|S (CKb:7 3.6500 0.3550)
*|S (CKb:9 4.1700 0.8550)
*|S (CKb:11 4.3950 0.1900)
*|S (CKb:12 4.3950 0.3300)
*|S (CKb:13 4.1700 0.3300)
*|S (CKb:14 3.2275 0.3550)
*|S (CKb:16 4.8700 0.5300)
C67 Mmp20:d VSS 6.0908e-17
C68 Mmp36:g VSS 4.33289e-17
C69 Mmp21:g VSS 6.50477e-17
C70 Mmp40:g VSS 3.66611e-17
C71 Mmn20:d VSS 8.17939e-17
C72 Mmn26:g VSS 6.62522e-17
C73 Mmn21:g VSS 4.98529e-17
C74 Mmn52:g VSS 3.71492e-17
C75 CKb:14 VSS 6.41427e-17
C76 CKb:13 VSS 6.45988e-17
C77 CKb:12 VSS 6.39184e-17
C78 CKb:1 VSS 5.22604e-17
C79 CKb:4 VSS 1.22897e-16
C80 CKb:7 VSS 8.54194e-17
C81 CKb:9 VSS 1.28332e-16
C82 CKb:11 VSS 5.15733e-17
Rl61 CKb:1 Mmn52:g 109.009361 $W=0.039
Rl62 Mmn21:g CKb:7 75.002060 $W=0.039
Rl63 Mmn26:g CKb:11 138.463593 $W=0.039
Rl64 Mmp40:g CKb:4 69.232826 $W=0.039
Rl65 Mmp21:g Mmn21:g 132.717667 $W=0.039
Rl66 Mmp36:g CKb:9 74.537926 $W=0.039
Rk67 CKb:11 CKb:12 0.055406 $W=0.125
Rk68 CKb:13 CKb:9 0.377421 $W=0.08
Rk69 CKb:13 CKb:7 0.384332 $W=0.09
Rk70 CKb:12 CKb:13 0.188372 $W=0.09
Rk71 CKb:7 CKb:14 0.304399 $W=0.09
Rk72 CKb:14 CKb:4 0.361257 $W=0.08
Rk73 CKb:14 CKb:1 0.068284 $W=0.0825
Rk74 CKb:12 CKb:16 0.490004 $W=0.08
Rk75 Mmn20:d CKb:16 75.000000 $W=0.08
Rk76 CKb:16 Mmp20:d 62.455589 $W=0.09
*
*|NET CKbb 6.32913e-16
*|I (Mmn40:g Mmn40 g X 0 3.2725 0.5325)
*|I (Mmn21:d Mmn21 d X 0 3.5950 0.5425)
*|I (Mmn35:g Mmn35 g X 0 4.2275 0.5425)
*|I (Mmp52:g Mmp52 g X 0 2.9925 1.0425)
*|I (Mmp21:d Mmp21 d X 0 3.5850 1.0725)
*|I (Mmp26:g Mmp26 g X 0 4.3475 1.0725)
*|S (CKbb:2 3.2725 0.7025)
*|S (CKbb:4 3.5450 0.7400)
*|S (CKbb:6 4.2275 0.7125)
*|S (CKbb:7 4.0100 0.8550)
C83 Mmp26:g VSS 6.31419e-17
C84 Mmp21:d VSS 5.79223e-17
C85 Mmp52:g VSS 6.57028e-17
C86 Mmn35:g VSS 2.91469e-17
C87 Mmn21:d VSS 3.34945e-17
C88 Mmn40:g VSS 3.96875e-17
C89 CKbb:6 VSS 5.68968e-17
C90 CKbb:2 VSS 4.92721e-17
C91 CKbb:4 VSS 1.05297e-16
C92 CKbb:7 VSS 1.32351e-16
Rl77 CKbb:2 CKbb:4 133.850983 $W=0.039
Rl78 CKbb:6 CKbb:7 149.515808 $W=0.039
Rl79 Mmn40:g CKbb:2 30.450726 $W=0.039
Rl80 CKbb:6 Mmn35:g 30.450726 $W=0.039
Rl81 CKbb:2 Mmp52:g 168.774307 $W=0.039
Rl82 Mmp26:g CKbb:6 114.928162 $W=0.039
Rk83 CKbb:7 CKbb:4 0.453462 $W=0.08
Rk84 CKbb:4 Mmn21:d 75.142006 $W=0.07
Rk85 CKbb:4 Mmp21:d 62.218666 $W=0.08
*
*|NET n30 1.80955e-18
*|I (Mmn36:d Mmn36 d X 0 4.0550 0.5425)
*|I (Mmn35:s Mmn35 s X 0 4.0550 0.5425)
C93 Mmn36:d VSS 1.80955e-18
Rmw86 Mmn35:s Mmn36:d 0.001000 $W=1
*
*|NET n21 2.10073e-19
*|I (Mmn26:s Mmn26 s X 0 4.4850 0.5425)
*|I (Mmn25:d Mmn25 d X 0 4.4850 0.5425)
C94 Mmn26:s VSS 2.10073e-19
Rmw87 Mmn25:d Mmn26:s 0.001000 $W=1
*
*|NET n41 2.14797e-16
*|I (Mmp51:d Mmp51 d X 0 1.8275 1.0525)
*|I (Mmp52:s Mmp52 s X 0 2.8125 1.0425)
C95 Mmp52:s VSS 1.32898e-16
C96 Mmp51:d VSS 8.18997e-17
Rk88 Mmp52:s Mmp51:d 124.689095 $W=0.08
*
*|NET n31 4.43616e-18
*|I (Mmp35:d Mmp35 d X 0 4.0100 1.0725)
*|I (Mmp36:s Mmp36 s X 0 4.0100 1.0725)
C97 Mmp35:d VSS 4.43616e-18
Rmw89 Mmp36:s Mmp35:d 0.001000 $W=1
*
*|NET n22 0
*|I (Mmp26:s Mmp26 s X 0 4.4125 1.0725)
*|I (Mmp25:d Mmp25 d X 0 4.4125 1.0725)
Rmw90 Mmp25:d Mmp26:s 0.001000 $W=1
*
*Instance Section
*
Mmn57	Mmn57:d	Mmn57:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.02537P	AS=0.0519P	PD=0.64U	PS=1.6U
+ fw=1.45e-07 sa=1.75e-07 sb=3.35e-07 sca=23.279 scb=0.0230742 scc=0.00267719
Mmn56	Mmn56:d	Mmn56:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.0519P	PD=0.57U	PS=1.6U
+ fw=1.45e-07 sa=3.7e-07 sb=1.4e-07 sca=23.279 scb=0.0230742 scc=0.00267719
Mmn55	Mmn55:d	Mmn55:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.02537P	AS=0.0494P	PD=0.64U	PS=1.5U
+ fw=1.45e-07 sa=1.75e-07 sb=3.35e-07 sca=16.2011 scb=0.0172667 scc=0.0012292
Mmn45	Mmn45:d	Mmn45:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.0494P	PD=0.57U	PS=1.5U
+ fw=1.45e-07 sa=3.7e-07 sb=1.4e-07 sca=16.2011 scb=0.0172667 scc=0.0012292
Mmn51	Mmn51:d	Mmn51:g	Mmn51:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.0087P	PD=0.57U	PS=0.41U
+ fw=1.45e-07 sa=1.4e-07 sb=8.3e-07 sca=16.2011 scb=0.0172667 scc=0.0012292
Mmn50	Mmn50:d	Mmn50:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0087P	AS=0.0494P	PD=0.41U	PS=1.5U
+ fw=1.45e-07 sa=2.45e-07 sb=7.25e-07 sca=16.2011 scb=0.0172667 scc=0.0012292
Mmn30	Mmn30:d	Mmn30:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.05002P	AS=0.0494P	PD=0.98U	PS=1.5U
+ fw=1.45e-07 sa=4.4e-07 sb=5.3e-07 sca=16.2011 scb=0.0172667 scc=0.0012292
Mmn31	Mmn31:d	Mmn31:g	Mmn31:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.05002P	PD=0.57U	PS=0.98U
+ fw=1.45e-07 sa=8.3e-07 sb=1.4e-07 sca=16.2011 scb=0.0172667 scc=0.0012292
Mmn52	Mmn52:d	Mmn52:g	Mmn52:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.04277P	AS=0.0203P	PD=0.88U	PS=0.57U
+ fw=1.45e-07 sa=1.4e-07 sb=4.9e-07 sca=15.7071 scb=0.0167369 scc=0.00113434
Mmn40	Mmn52:d	Mmn40:g	Mmn40:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.04277P	AS=0.02175P	PD=0.88U	PS=0.59U
+ fw=1.45e-07 sa=4.8e-07 sb=1.5e-07 sca=15.7071 scb=0.0167369 scc=0.00113434
Mmn21	Mmn21:d	Mmn21:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.04965P	PD=0.57U	PS=1.51U
+ fw=1.45e-07 sa=1.4e-07 sb=1.22e-06 sca=16.7245 scb=0.0178071 scc=0.00133148
Mmn36	Mmn36:d	Mmn36:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0435P	AS=0.04965P	PD=0.89U	PS=1.51U
+ fw=1.45e-07 sa=3.35e-07 sb=1.025e-06 sca=16.7245 scb=0.0178071 scc=0.00133148
Mmn35	Mmn35:d	Mmn35:g	Mmn35:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0232P	AS=0.0435P	PD=0.61U	PS=0.89U
+ fw=1.45e-07 sa=6.8e-07 sb=6.8e-07 sca=16.7245 scb=0.0178071 scc=0.00133148
Mmn26	Mmn35:d	Mmn26:g	Mmn26:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0232P	AS=0.0087P	PD=0.61U	PS=0.41U
+ fw=1.45e-07 sa=8.85e-07 sb=4.75e-07 sca=16.7245 scb=0.0178071 scc=0.00133148
Mmn25	Mmn25:d	Mmn25:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0087P	AS=0.05037P	PD=0.41U	PS=1.52U
+ fw=1.45e-07 sa=9.9e-07 sb=3.7e-07 sca=16.7245 scb=0.0178071 scc=0.00133148
Mmn20	Mmn20:d	Mmn20:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.02465P	AS=0.05037P	PD=0.63U	PS=1.52U
+ fw=1.45e-07 sa=1.19e-06 sb=1.7e-07 sca=16.7245 scb=0.0178071 scc=0.00133148
Mmp57	Mmp57:d	Mmp57:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.03762P	AS=0.05515P	PD=0.78U	PS=1.45U
+ fw=2.15e-07 sa=1.75e-07 sb=3.35e-07 sca=49.323 scb=0.0325052 scc=0.00592234
Mmp56	Mmp56:d	Mmp56:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0301P	AS=0.05515P	PD=0.71U	PS=1.45U
+ fw=2.15e-07 sa=3.7e-07 sb=1.4e-07 sca=47.0806 scb=0.0291408 scc=0.00588526
Mmp55	Mmp55:d	Mmp55:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.03762P	AS=0.05515P	PD=0.78U	PS=1.45U
+ fw=2.15e-07 sa=1.75e-07 sb=3.17326e-07 sca=45.7906 scb=0.0283307 scc=0.00588417
Mmp45	Mmp45:d	Mmp45:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0263P	AS=0.05515P	PD=0.71U	PS=1.45U
+ fw=2.15e-07 sa=3.7e-07 sb=1.22326e-07 sca=45.7906 scb=0.0283307 scc=0.00588417
Mmp51	Mmp51:d	Mmp51:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.05482P	AS=0.0309P	PD=0.94U	PS=0.81U
+ fw=2.15e-07 sa=1.32558e-07 sb=8.7e-07 sca=27.1298 scb=0.023603 scc=0.0032399
Mmp50	Mmp51:d	Mmp50:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.05482P	AS=0.0779P	PD=0.94U	PS=1.38U
+ fw=2.15e-07 sa=4.32558e-07 sb=5.7e-07 sca=27.1298 scb=0.023603 scc=0.0032399
Mmp30	Mmp30:d	Mmp30:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0344P	AS=0.0779P	PD=0.75U	PS=1.38U
+ fw=2.15e-07 sa=6.97558e-07 sb=3.05e-07 sca=27.1298 scb=0.023603 scc=0.0032399
Mmp31	Mmp30:d	Mmp31:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0344P	AS=0.0534P	PD=0.75U	PS=1.71U
+ fw=2.15e-07 sa=9.02558e-07 sb=1e-07 sca=27.1298 scb=0.023603 scc=0.0032399
Mmp52	Mmp52:d	Mmp52:g	Mmp52:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0344P	AS=0.06773P	PD=0.75U	PS=1.06U
+ fw=2.15e-07 sa=3.15e-07 sb=3.45e-07 sca=29.9075 scb=0.0247057 scc=0.00372713
Mmp40	Mmp52:d	Mmp40:g	Mmp40:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0344P	AS=0.0301P	PD=0.75U	PS=0.71U
+ fw=2.15e-07 sa=5.2e-07 sb=1.4e-07 sca=29.9075 scb=0.0247057 scc=0.00372713
Mmp21	Mmp21:d	Mmp21:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0301P	AS=0.09662P	PD=0.71U	PS=2.32U
+ fw=2.15e-07 sa=1.4e-07 sb=1.145e-06 sca=22.8495 scb=0.0214046 scc=0.00242442
Mmp35	Mmp35:d	Mmp35:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0473P	AS=0.09662P	PD=0.87U	PS=2.32U
+ fw=2.15e-07 sa=3.4e-07 sb=9.45e-07 sca=22.8495 scb=0.0214046 scc=0.00242442
Mmp36	Mmp36:d	Mmp36:g	Mmp36:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0344P	AS=0.0473P	PD=0.75U	PS=0.87U
+ fw=2.15e-07 sa=6.05e-07 sb=6.8e-07 sca=23.0812 scb=0.0214629 scc=0.00242443
Mmp26	Mmp36:d	Mmp26:g	Mmp26:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0344P	AS=0.01827P	PD=0.75U	PS=0.6U
+ fw=2.15e-07 sa=8.1e-07 sb=4.75e-07 sca=23.8644 scb=0.0219441 scc=0.00242489
Mmp25	Mmp25:d	Mmp25:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.01827P	AS=0.0344P	PD=0.6U	PS=0.75U
+ fw=2.15e-07 sa=9.4e-07 sb=3.45e-07 sca=24.8442 scb=0.0230968 scc=0.00242964
Mmp20	Mmp20:d	Mmp20:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0301P	AS=0.0344P	PD=0.71U	PS=0.75U
+ fw=2.15e-07 sa=1.145e-06 sb=1.4e-07 sca=28.9348 scb=0.0300604 scc=0.00262798
.ENDS
.END
